US05808062
6-(3-Chlorophenyl)-4-hydroxy-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3'-chloroacetophenone (3 g, 19.41 mmol), trimethylsilyl triflate (4.31 g, 19.41 mmol), triethylamine (3.92 g, 38.82 mmol), methylene chloride (20 mL), and diethyl ester of [(2-isopropylphenyl)thio]-propanedioic acid (3.0 g, 9.71 mmol). Isolated yield: 70% m.p. 177°-178° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.28 (d, 6H), 3.42 (m, 1H), 6.92 (d, 1H), 6.94 (s, 1H), 7.06 (t, 1H), 7.13 (t, 1H), 7.28 (d, 1H), 7.58 (t, 1H), 7.63 (t, 1H), 7.83 (d, 1H), 7.89 (s, 1H).

reactant | 3'-chloroacetophenone | 19.41 mmol, 3 g | ClC=1C=C(C=CC1)C(C)=O | C8H7ClO
reactant | trimethylsilyl triflate | 19.41 mmol, 4.31 g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 38.82 mmol, 3.92 g | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio]-propanedioic acid | 9.71 mmol, 3.0 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-(3-Chlorophenyl)-4-hydroxy-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one | yield: 70% | ClC=1C=C(C=CC1)C1=CC(=C(C(O1)=O)SC1=C(C=CC=C1)C(C)C)O | C20H17ClO3S
